US09414596B2
To mixture of Boc-β-alanine (N-Boc-β-Ala-OH; 1 g, 5.29 mmol) and N-hydroxysuccinimide (0.9 g, 7.82 mmol) in DMF (10 mL) were added 1-hydroxybenzotriazole hydrate (HOBt.xH2O; 0.7 g, 5.25 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI.HCl; 1 g, 5.23 mmol) at 5° C. The reaction mixture was warmed to RT and stirred for 16 h. The progress of the reaction was monitored by TLC. The reaction was quenched with water and the mixture was extracted with EtOAc (2×150 mL). The combined organic layers were washed with water (3×100 mL) and brine (150 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude compound was triturated with ether (2×25 mL) to afford N-Boc-β-Ala-OSu (1.1 g, crude) as a white solid. 1H NMR (500 MHz, CDCl3): δ 5.10 (br s, 1H), 3.52 (q, J=6.0 Hz, 2H), 2.85-2.82 (m, 6H), 1.31 (s, 9H).

reactant | Boc-β-alanine | 5.29 mmol, 1 g | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | N-hydroxysuccinimide | 7.82 mmol, 0.9 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-hydroxybenzotriazole hydrate | 5.25 mmol, 0.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.23 mmol, 1 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-Boc-β-Ala-OSu | 1.1 g | N(CCC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C12H18N2O6
